2152-04-24 11:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2152-4-23**] 04:00 PM
   [**4-23**]
   - continued abx for emprici covergae in setting of fever, hypotension,
   although still most likely gemcitabine related
   - needed intermittant pressors during the day
   - spiked temp to 101, rigors
 resolved with Tylenol, not cultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2152-4-23**] 10:00 AM
   Cefipime - [**2152-4-23**] 10:20 PM
   Vancomycin - [**2152-4-24**] 02:33 AM
   Infusions:
   Phenylephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-24**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.8
   HR: 101 (78 - 110) bpm
   BP: 109/75(83) {74/28(46) - 118/77(84)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,234 mL
                                                                    386 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    834 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                  4,930 mL
                                                                  1,980 mL
   Urine:
                                                                  3,060 mL
                                                                  1,980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,304 mL
                                                                 -1,594 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   161 K/uL
   9.2 g/dL
   103 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   7 mg/dL
   108 mEq/L
   140 mEq/L
   27.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2152-4-23**]  04:06 PM
                             [**2152-4-24**]  05:09 AM
   WBC
   5.6
   6.1
   Hct
   29.2
   27.5
   Plt
   147
   161
   Cr
   0.6
   0.7
   Glucose
   108
   103
   Other labs: PT / PTT / INR:14.7/36.6/1.3, ALT / AST:20/29, Alk Phos / T
   Bili:84/0.5, Differential-Neuts:89.6 %, Lymph:7.9 %, Mono:0.6 %,
   Eos:1.8 %, Albumin:2.9 g/dL, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 ACUTE PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   59 year old male with recurrent squamous cell lung cancer, now C1D10 of
   gemcitabine, last dose on [**2152-4-20**] who p/w fever, hypotension and
   tachycardia.
   .
   # Hypotension/Fever: Presents with recent immunosupression but no
   neutropenia. Pt has fever and hypotension refractory to fluids.
   However, his CVP is 10, he has good urine output and lactate has
   improved which indicates that he is likely volume rescucitated. In
   addition, his mixed venous O2 is c/w sepsi at 94s.  He has no
   localizing source at this time with baseline CXR and neg UA. His shock
   is most likely a distrubtive shock picture and is most likely c/w
   reaction to gemcitabine.
   - wean off neo as tolerated
   - keep MAP 60 or SPB>85
   - monitor CVP and urine output
   - cont Vanc/Cefepime/Levofloxacin for broad coverage
   - check CTA of chest, d/c Vanc / Cefepime if no infiltrate
   - if Blood cx neg after 48 hrs would stop Vanc/Cefepime as well
   - on levoquin chronically
   - f/u blood and urine Cx
   - obtain sputum cx if possible
   .
   # Non-gap metabolic acidosis: pH 7.33/38, bicarb 21, AG 11. Appropriate
   respiratory compensation. Last albumin 3.3 in 2/009. Pt is not having
   diarrhea and has nl creatinine.
   - check albumin
   - will follow
   .
   # Atrial fibrillation: In sinus rhythm.
   - Continue flecainide, aspirin.
   - restart home diltiazem once 24 hrs off pressors
   .
   # COPD: continue advair, prn albuterol, spiriva
   .
   # Anemia: Likely from bone marrow supression from chemotherapy
   - trend for now
   - guiac stools
   .
   # Squamous cell carcinoma: s/p neoadjuvant cisplatin and etoposide with
   concomitant radiation completed [**2151-1-13**] for squamous cell lung cancer
   s/p left pneumonectomy on [**2151-3-4**] and s/p first dose of palliative
   Taxotere on [**2-3**].
   - treatment per Onc when infection resolves
   .
   # FEN: cardiac/heart healthy diet, replete lytes prn
   .
   # Prophylaxis: sc heparin, bowel regimen prn
   .
   # Code: presumed full
   .
   # Communication: Daughter [**First Name4 (NamePattern1) 429**] [**Last Name (NamePattern1) 9020**] ([**Telephone/Fax (1) 9021**]; HCP is son
   [**Name (NI) **],[**Name (NI) 9022**] Phone number: [**Telephone/Fax (1) 9023**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-4-23**] 04:48 AM
   18 Gauge - [**2152-4-23**] 04:49 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2152-04-24 11:20:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note bellow.
   Chief complaint: Fever/hypotension
   HPI:
   59M with severe SIRS likely as a consequence of recent gemcitabine
   therapy.   Sepsis a possibility but so far no infectious source
   identified on evaluation.  His oxygen requirement appear to be
   declining slowly and may reflect SIRS, PNA, and poor pulm reserve.
   There may be a component of  underlying pulm HTN given the pneumoectomy
   and the prior PE.  RA O2 requirement prior to admission.
   24 Hour Events:
   Spiked to 101
   Weaned off Neo
 EKG - At [**2152-4-23**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2152-4-24**] 02:33 AM
   Cefipime - [**2152-4-24**] 10:17 AM
   Levofloxacin - [**2152-4-24**] 10:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   asa 325
   neurontin
   advair
   flecinide
   levofloxacin
   vanc 1g
   atrovent
   cefepime
   hep TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-24**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.7
   HR: 109 (82 - 113) bpm
   BP: 83/60(65) {75/49(57) - 118/75(83)} mmHg
   RR: 27 (17 - 27) insp/min
   SpO2: 100% 50%FM
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  7,234 mL
                                                                    672 mL
   PO:
                                                                    400 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    834 mL
                                                                    472 mL
   Blood products:
   Total out:
                                                                  4,930 mL
                                                                  2,880 mL
   Urine:
                                                                  3,060 mL
                                                                  2,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,304 mL
                                                                 -2,208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
    GEN        NAD
   CV           regular s1 s2 no m/r/g
   LUNGS   No BS left, Fine dry end inspiratory rales right lung 2/3 up.
   Prolonged exp phase apex
   ABD         Soft, NT/ND
   EXT         Trace edema
   SKIN       No rashes
   NEURO    Non-focal
   Labs / Radiology:
   9.2 g/dL
   161 K/uL
   103 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   7 mg/dL
   108 mEq/L
   140 mEq/L
   27.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2152-4-23**]  04:06 PM
                             [**2152-4-24**]  05:09 AM
   WBC
   5.6
   6.1
   Hct
   29.2
   27.5
   Plt
   147
   161
   Cr
   0.6
   0.7
   Glucose
   108
   103
   Other labs: PT / PTT / INR:14.7/36.6/1.3, ALT / AST:20/29, Alk Phos / T
   Bili:84/0.5, Differential-Neuts:89.6 %, Lymph:7.9 %, Mono:0.6 %,
   Eos:1.8 %, Albumin:2.9 g/dL, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:2.1
   mg/dL
   BNP-Pending
   Assessment and Plan
   59M with severe SIRS likely as a consequence of recent gemcitabine
   therapy.   Sepsis a possibility but so far no infectious source
   identified on evaluation.  His oxygen requirement appear to be
   declining slowly and may reflect SIRS, PNA, and poor pulm reserve.
   There may be a component of  underlying pulm HTN given the pneumoectomy
   and the prior PE.  Agree with MICU team plan of care and empahsize:
   HoTN
   -gemcitabine vs. sepsis vs. cardiac vs. PE
   -weaned off pressor
   - empiric vanco/cefpime/levaquin pending cx data.  If negative cx. d/c
   abx and continue levaquin
   -Will Check CTPA to rule out PE and eval for PNA
   -Check BNP
   -Continue antiarrythmic therapy
   -not on anticoagulation due to bleeding risk.
   -Give fluid if hypotensive
   Hypoxemia
   -requiring supp FiO2 via NC - wean as tolerated
   - Atrovent q6
   -Will start emperic solumedol 125Q6
   Afib
   -Continue home meds holding dilt until BP improves
   H/o Pulmonary embolism-[**2149**] will check CTA, per patient had [**Last Name 9031**]
   problem from chest wound from anticoagulation.
   Recurrent NSCLCA
   -s/p gemcitabine
   COPD
   -home regimen, may need anxiolytics for dyspnea. If worsens, will try
   BiPAP
   ICU Care
   Nutrition: regluar diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-4-23**] 04:48 AM
   18 Gauge - [**2152-4-23**] 04:49 AM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent:  35 mins

2152-04-25 07:44:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   Hypotension
   Fever
   24 Hour Events:
   - weaned off Neo
   - BNP 1000
   - started Solu-Medrol 125mg Q6hrs for possible Gemcitabine-related
   inflammatory lung disease
   - Chest CTA showed no PE, s/p left pneumonectomy; also with increased
   diffuse right lung opacities and new small right pleural effusion,
   could be due to superimposed edema on infection and emphysema. Right
   middle lobe nodule slightly increased, likely infectious. Persistent
   worrisome thickening of the left hilar stump and pleural nodules. Signs
   of anemia.
   - continued Antibiotics overnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2152-4-24**] 10:17 AM
   Cefipime - [**2152-4-24**] 10:00 PM
   Vancomycin - [**2152-4-25**] 02:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-4-24**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-25**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 96 (92 - 113) bpm
   BP: 128/79(90) {82/54(61) - 128/83(91)} mmHg
   RR: 26 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 7)mmHg
   Total In:
                                                                  1,349 mL
                                                                    277 mL
   PO:
                                                                    500 mL
   TF:
   IVF:
                                                                    849 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  4,270 mL
                                                                    395 mL
   Urine:
                                                                  4,270 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,921 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   9.4 g/dL
   160 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   28.5 %
   3.4 K/uL
        [image002.jpg]
                             [**2152-4-23**]  04:06 PM
                             [**2152-4-24**]  05:09 AM
                             [**2152-4-25**]  04:11 AM
   WBC
   5.6
   6.1
   3.4
   Hct
   29.2
   27.5
   28.5
   Plt
   147
   161
   151
   Cr
   0.6
   0.7
   0.6
   Glucose
   108
   103
   160
   Other labs: PT / PTT / INR:14.1/27.8/1.2, ALT / AST:20/29, Alk Phos / T
   Bili:84/0.5, Differential-Neuts:89.6 %, Lymph:7.9 %, Mono:0.6 %,
   Eos:1.8 %, Albumin:2.9 g/dL, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG
 HYPOTENSION (NOT SHOCK)
 ACUTE PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   59 year old male with recurrent squamous cell lung cancer, now C1D10 of
   gemcitabine, last dose on [**2152-4-20**] who p/w fever, hypotension and
   tachycardia.
   .
   # Hypotension/Fever: Presents with recent immunosupression but no
   neutropenia. Pt has fever and hypotension refractory to fluids.
   However, his CVP is 10, he has good urine output and lactate has
   improved which indicates that he is likely volume rescucitated. In
   addition, his mixed venous O2 is c/w sepsi at 94s.  He has no
   localizing source at this time with baseline CXR and neg UA. His shock
   is most likely a distrubtive shock picture and is most likely c/w
   reaction to gemcitabine.
   - wean off neo as tolerated
   - keep MAP 60 or SPB>85
   - monitor CVP and urine output
   - cont Vanc/Cefepime/Levofloxacin for broad coverage
   - check CTA of chest, d/c Vanc / Cefepime if no infiltrate
   - if Blood cx neg after 48 hrs would stop Vanc/Cefepime as well
   - on levoquin chronically
   - f/u blood and urine Cx
   - obtain sputum cx if possible
   .
   # Non-gap metabolic acidosis: pH 7.33/38, bicarb 21, AG 11. Appropriate
   respiratory compensation. Last albumin 3.3 in 2/009. Pt is not having
   diarrhea and has nl creatinine.
   - check albumin
   - will follow
   .
   # Atrial fibrillation: In sinus rhythm.
   - Continue flecainide, aspirin.
   - restart home diltiazem once 24 hrs off pressors
   .
   # COPD: continue advair, prn albuterol, spiriva
   .
   # Anemia: Likely from bone marrow supression from chemotherapy
   - trend for now
   - guiac stools
   .
   # Squamous cell carcinoma: s/p neoadjuvant cisplatin and etoposide with
   concomitant radiation completed [**2151-1-13**] for squamous cell lung cancer
   s/p left pneumonectomy on [**2151-3-4**] and s/p first dose of palliative
   Taxotere on [**2-3**].
   - treatment per Onc when infection resolves
   .
   # FEN: cardiac/heart healthy diet, replete lytes prn
   .
   # Prophylaxis: sc heparin, bowel regimen prn
   .
   # Code: presumed full
   .
   # Communication: Daughter [**First Name4 (NamePattern1) 429**] [**Last Name (NamePattern1) 9020**] ([**Telephone/Fax (1) 9021**]; HCP is son
   [**Name (NI) **],[**Name (NI) 9022**] Phone number: [**Telephone/Fax (1) 9023**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-4-23**] 04:48 AM
   18 Gauge - [**2152-4-23**] 04:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2152-04-25 09:33:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note bellow.
   Chief complaint: Fever/hypotension
   HPI:
   59M with severe SIRS likely as a consequence of recent gemcitabine
   therapy.   Sepsis a possibility but so far no infectious source
   identified on evaluation.  His oxygen requirement appear to be
   declining slowly and may reflect SIRS, PNA, and poor pulm reserve.
   There may be a component of  underlying pulm HTN given the pneumoectomy
   and the prior PE.  RA O2 requirement prior to admission.
   24 Hour Events:
   Off neo
   started on solumedol
   CTA neg PE see report
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2152-4-24**] 10:17 AM
   Cefipime - [**2152-4-24**] 10:00 PM
   Vancomycin - [**2152-4-25**] 02:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-4-24**] 12:30 PM
   Other medications:
   asa 325
   neurontin
   advair
   flecinide
   levofloxacin
   vanc 1g 12
   atrovent
   cefepime 2GQ12
   Solumedol 125Q6
   hep TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-25**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96
   HR: 98 (91 - 113) bpm
   BP: 118/75(86) {82/54(64) - 128/93(99)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 93%  5L
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,349 mL
                                                                    295 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    849 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                  4,270 mL
                                                                    635 mL
   Urine:
                                                                  4,270 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,921 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GEN        NAD
   CV           regular s1 s2 no m/r/g
   LUNGS   No BS left, Fine dry end inspiratory rales right lung 1/3 up
   improved. Prolonged exp phase apex
   ABD         Soft, NT/ND
   EXT         Trace edema
   SKIN       No rashes
   NEURO    Non-focal
   Labs / Radiology: fine interstitial pattern
   9.4 g/dL
   151 K/uL
   160 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   28.5 %
   3.4 K/uL
        [image002.jpg]
                             [**2152-4-23**]  04:06 PM
                             [**2152-4-24**]  05:09 AM
                             [**2152-4-25**]  04:11 AM
   WBC
   5.6
   6.1
   3.4
   Hct
   29.2
   27.5
   28.5
   Plt
   147
   161
   151
   Cr
   0.6
   0.7
   0.6
   Glucose
   108
   103
   160
   Other labs: PT / PTT / INR:14.1/27.8/1.2, ALT / AST:20/29, Alk Phos / T
   Bili:84/0.5, Differential-Neuts:89.6 %, Lymph:7.9 %, Mono:0.6 %,
   Eos:1.8 %, Albumin:2.9 g/dL, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.7
   mg/dL
   BNP 1000
   Micro-urine negative
   -Blood pending
   -Legionella negative
   Assessment and Plan
   59M with severe SIRS likely as a consequence of recent gemcitabine
   therapy.   Sepsis a possibility but so far no infectious source
   identified on evaluation.   Low WBC on high dose steroids may be
   secondary to possible viral etiology if this is not chemo related
   Hypoxemia interstitial process
   -gemcitabine vs. sepsis
   -weaned off pressor
   - empiric vanco/cefpime/levaquin pending cx data.  If negative cx. d/c
   abx and continue levaquin
   -requiring supp FiO2 via NC - wean as tolerated
   - Atrovent q6
   -Will start emperic solumedol 125Q6
   Hypotension
   -Continue antiarrythmic therapy
   -Give fluid if hypotensive
   Pancytopenia
   -Will follow, chemo related
   Afib
   -Continue home meds holding dilt until BP improves
   H/o Pulmonary embolism-[**2149**]  CTA negative, per patient had [**Last Name 9031**]
   problem from chest wound from anticoagulation chart reports hemoptysis.
   Recurrent NSCLCA
   -s/p gemcitabine
   COPD
   -home regimen, may need anxiolytics for dyspnea. If worsens, will try
   BiPAP
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-4-23**] 04:48 AM
   18 Gauge - [**2152-4-23**] 04:49 AM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : transition to floor today, taper steroids over next week.
   Total time spent:  25 mins

2152-04-26 08:05:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note bellow.
   Chief complaint: Fever/hypotension
   HPI:
   59M with severe SIRS likely as a consequence of recent gemcitabine
   therapy.   Sepsis a possibility but so far no infectious source
   identified on evaluation.  His oxygen requirement appear to be
   declining slowly and may reflect SIRS, PNA, and poor pulm reserve.
   There may be a component of  underlying pulm HTN given the pneumoectomy
   and the prior PE.  RA O2 requirement prior to admission.
   24 Hour Events:
   breathing better.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2152-4-24**] 10:17 AM
   Vancomycin - [**2152-4-25**] 02:20 PM
   Cefipime - [**2152-4-25**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-4-25**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2152-4-25**] 08:09 PM
   Other medications:
   asa 325
   neurontin 600mg Q 8hr
   advair
   flecinide
   levofloxacin 500Q 24
   vanc 1g 12
   atrovent
   cefepime 2GQ12
   Solumedol 125Q6
   hep TID
   protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-26**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 91 (91 - 110) bpm
   BP: 109/69(79) {93/35(50) - 128/97(101)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 91% 5L
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,240 mL
                                                                     81 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    740 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    650 mL
   Urine:
                                                                  1,555 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                   -569 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   GEN        NAD
   CV           regular s1 s2 no m/r/g
   LUNGS   No BS left, Fine dry end inspiratory rales right lung 1/3 up
   improved. Prolonged exp phase apex
   ABD         Soft, NT/ND
   EXT         Trace edema
   SKIN       No rashes
   NEURO    Non-focal
   Labs / Radiology: no film Pending
   9.4 g/dL
   151 K/uL
   160 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   28.5 %
   3.4 K/uL
        [image002.jpg]
                             [**2152-4-23**]  04:06 PM
                             [**2152-4-24**]  05:09 AM
                             [**2152-4-25**]  04:11 AM
   WBC
   5.6
   6.1
   3.4
   Hct
   29.2
   27.5
   28.5
   Plt
   147
   161
   151
   Cr
   0.6
   0.7
   0.6
   Glucose
   108
   103
   160
   Other labs: PT / PTT / INR:14.1/27.8/1.2, ALT / AST:20/29, Alk Phos / T
   Bili:84/0.5, Differential-Neuts:89.6 %, Lymph:7.9 %, Mono:0.6 %,
   Eos:1.8 %, Albumin:2.9 g/dL, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.7
   mg/dL
   Labs pending:
   Micro-DFA negative
   Assessment and Plan
   59M with severe SIRS likely as a consequence of recent gemcitabine
   therapy.   Sepsis a possibility but so far no infectious source
   identified on evaluation.   Low WBC on high dose steroids may be
   secondary to possible viral etiology if this is not chemo related
   Hypoxemia interstitial process
   -gemcitabine vs. sepsis
   -weaned off pressor
   - empiric vanco/cefpime/levaquin pending cx data.  If negative cx. d/c
   abx and continue levaquin
   -requiring supp FiO2 via NC - wean as tolerated
   - Atrovent q6
   -Will decrease solumedol 60mg Q6  and transition to prednisone with
   rapid taper over next 5-7 days
   Hypotension ahs resolved
   -Continue antiarrythmic therapy
   -Give fluid if hypotensive
   Pancytopenia
   -Will follow, chemo related
   Afib
   -Continue home meds holding dilt until BP improves
   H/o Pulmonary embolism-[**2149**]  CTA negative, per patient had [**Last Name 9031**]
   problem from chest wound from anticoagulation chart reports hemoptysis.
   Recurrent NSCLCA
   -s/p gemcitabine
   COPD
   -home regimen, may need anxiolytics for dyspnea. If worsens, will try
   BiPAP
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-4-23**] 04:48 AM  Will d
c central line
   18 Gauge - [**2152-4-23**] 04:49 AM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer: PPI steroids
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor and will need to assess o2 needs pre discharge
   Total time spent: 25 mins

2152-04-26 08:17:00 Physician Resident Progress Note
Chief Complaint: fever
   24 Hour Events:
   - flu sent and was negative
   - couldn't call out as was still requiring face tent intermittently
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2152-4-24**] 10:17 AM
   Vancomycin - [**2152-4-25**] 02:20 PM
   Cefipime - [**2152-4-25**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2152-4-25**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2152-4-25**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Breathing better today no pain.
   Flowsheet Data as of  [**2152-4-26**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 91 (91 - 110) bpm
   BP: 109/69(79) {93/35(50) - 128/97(101)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,240 mL
                                                                     83 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    740 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    650 mL
   Urine:
                                                                  1,555 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -315 mL
                                                                   -567 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula @4L, 50% face tent
   SpO2: 94%
   ABG: ////
   Physical Examination
   Pleasant appears comfortable today
   HEENT no oral ulcers
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no wheezing or rales, decreased L base
   Abd soft nontender +bowel sounds
   Extrem warm no edema palpable distal pulses
   Neuro alert and interactive
   Labs / Radiology
   151 K/uL
   9.4 g/dL
   160 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   28.5 %
   3.4 K/uL
        [image002.jpg]
   Labs above are from [**4-25**]
                             [**2152-4-23**]  04:06 PM
                             [**2152-4-24**]  05:09 AM
                             [**2152-4-25**]  04:11 AM
   WBC
   5.6
   6.1
   3.4
   Hct
   29.2
   27.5
   28.5
   Plt
   147
   161
   151
   Cr
   0.6
   0.7
   0.6
   Glucose
   108
   103
   160
   Other labs: PT / PTT / INR:14.1/27.8/1.2, ALT / AST:20/29, Alk Phos / T
   Bili:84/0.5, Differential-Neuts:89.6 %, Lymph:7.9 %, Mono:0.6 %,
   Eos:1.8 %, Albumin:2.9 g/dL, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.7
   mg/dL
   CXR [**4-25**]
   1. Stable post- pneumectomy appearance.
   2. Increased reticular nodular opacity in the right mid- and lower lung
   concerning for volume overload, infection or post-pneumectomy syndrome
   resulting in impairment of lymphatic or venous drainage.
   3. Unchanged nodular opacities in the right peripheral lung base.
   Micro urine legionella negative, [**4-25**] viral DFA negative, [**4-22**] blood cx
   NGTD
   Assessment and Plan
   59 year old male with recurrent squamous cell lung cancer, admitted
   C1D10 of gemcitabine, last dose on [**2152-4-20**] who p/w fever, hypotension
   and tachycardia.
   # Sepsis:  Clinically much improved.  Thought likely a reaction to
   gemcitabine. No organisms identified. SOB probably multifactorial with
   COPD, s/p pneumonectomy, gemcitabine effect and ?infection.
   - Continue steroids for Gemcitabine-related inflammatory lung disease.
   Will change to solumedrol 60q6 and plan to taper.
   - Repeat CXR today
   - Continue home levo, would stop vanc and cefepime today
   - Follow up cultures and reculture if febrile. Check sputum if making
   any.
   # Atrial fibrillation: In sinus rhythm.
   - Continue flecainide, aspirin.
   - Restart home diltiazem today
   # COPD: continue advair, prn albuterol, spiriva
   # Anemia: Likely from bone marrow supression from chemotherapy
   - follow daily, maintain active t+S, transfuse hct>25
   - Guiac stools
   # Squamous cell carcinoma: s/p neoadjuvant cisplatin and etoposide with
   concomitant radiation completed [**2151-1-13**] for squamous cell lung cancer
   s/p left pneumonectomy on [**2151-3-4**] and s/p first dose of palliative
   Taxotere on [**2-3**].
   - Treatment per Onc when infection resolves
   - Add on ANC today. WBC declining, likely due to recent chemotherapy.
   Needs CBC with diff today.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2152-4-23**] 04:48 AM
   18 Gauge - [**2152-4-23**] 04:49 AM
   Dc central line
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: continue PPI
   VAP:  OOB as tolerated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to floor today